US04654353
4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-2-(2-hydroxyethoxymethyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
was prepared by the method described in Example 1 using 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetic acid (see Preparation 5 of European patent application publication No. 0100189) and borane as the starting materials.

reactant | 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetic acid | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)O)C(=O)OCC | C20H21Cl2NO7
reactant | borane | B | BH3
product | 4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-2-(2-hydroxyethoxymethyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCO)C(=O)OCC | C20H23Cl2NO6
